data/pmechdb/original/mc_train_fold0/raw/train.txt
[H:20][CH:21](CO)[C:22](=[O:23])C.CC[O-:10]>>[H:20][O:10]CC.C[C:22](=[CH:21]CO)[O-:23] 10=20;22,23=23;20,21=21,22
C[CH:20]1[CH2:10][P-:11](=O)([O:21]1)(OC)OC>>C[CH:20]=[CH2:10].CO[P:11](=O)([O-:21])OC 10,11=10,20;20,21=21
C1=CC2=C(C=C1)C3=C([C-:10]2[CH2:20][O:21]C(=O)NCC(=O)NC4=CC=C(C=C4I)Cl)C=CC=C3.C1CC[NH2+]CC1>>[CH2:20]=[C:10]1C2=C(C=CC=C2)C3=C1C=CC=C3.C1=C(C=C(C(=C1)NC(=O)CNC(=O)[O-:21])I)Cl.C1CC[NH2+]CC1 10=20;20,21=21
CC[N:10](CC)[CH:20](C)[NH2+:21]C>>CC[N+:10](=[CH:20]C)CC.C[NH2:21] 10=20;20,21=21
[H:20][O:21]C(=O)C.CCOC(=O)C=CC1=C(C(=CC=C1)F)C2OCCC[O:10]2.O>>[H:20][O+:10]1CCCOC1C2=C(C=CC=C2F)C=CC(=O)OCC.CC(=O)[O-:21].O 10=20;20,21=21
CCOC(=O)C1=N[N:10]([C:20](C1)(C2=CC=CO2)[OH2+:21])C3=CC(=CC=C3)C#N.CCO.CC1=CC=C(C=C1)S(=O)(=O)[O-].O>>CCOC(=O)C1=N[N+:10](=[C:20](C1)C2=CC=CO2)C3=CC(=CC=C3)C#N.[OH2:21].CCO.CC1=CC=C(C=C1)S(=O)(=O)[O-].O 10=20;20,21=21
[H:20][O:21]S(=O)(=O)O.C1C[CH:10]=[CH:11]OC1>>[H:20][CH:10]1CCCO[CH+:11]1.OS(=O)(=O)[O-:21] 10,11=10,20;20,21=21
CCCCCC(C1C2C=CCC(N2C(=O)O1)C[C:20](=[O:21])Cl)OCC3=CC=CC=C3.C1=CC=C(C=C1)C[NH:10]CCCCO.O.O[Na]>>CCCCCC(C1C2C=CCC(N2C(=O)O1)C[C:20]([NH+:10](CCCCO)CC3=CC=CC=C3)([O-:21])Cl)OCC4=CC=CC=C4.O.O[Na] 10=20;20,21=21
[H:20][CH:21]1C(C([O+:23]=[C:22]1C)(C)O)C(=O)OCC.C[OH:10].OS(=O)(=O)[O-]>>[H:20][OH+:10]C.CCOC(=O)C1[CH:21]=[C:22]([O:23]C1(C)O)C.OS(=O)(=O)[O-] 10=20;22,23=23;20,21=21,22
C1CCC(CC1)OCC2C(C[CH:20]([O:10]2)[N+:21]3=CC(=CC=C3)C(=O)N)O>>C1CCC(CC1)OCC2C(C[CH:20]=[O+:10]2)O.C1=C[N:21]=CC(=C1)C(=O)N 10=20;20,21=21
[H:20][C:21](C)(C#N)Br.[OH-:10]>>[H:20][OH:10].C[C-:21](C#N)Br 10=20;20,21=21
[B-:10]1(C2CCCC1CCC2)(O)[O:11]C3CCCCC3C>>[B:10]1(C2CCCC1CCC2)O.CC1CCCCC1[O-:11] 10,11=11
CCCCCCC1CCC(C(=O)O1)[OH:10].CCOC(=O)NN(C(=O)OCC)[P+:20](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC(=CC=C1CBr)C(=O)[O-]>>CCCCCCC1CCC(C(=O)O1)[OH+:10][P:20](C2=CC=CC=C2)(C3=CC=CC=C3)(C4=CC=CC=C4)N(C(=O)OCC)NC(=O)OCC.C1=CC(=CC=C1CBr)C(=O)[O-] 10=20,
[H:20][O+:21](C(CCCCC(C)C)C(C(=O)[O-])OC1=CC=CC=C1)P(C2=CC=CC=C2)(C3=CC=CC=C3)(C4=CC=CC=C4)N(C(=O)OCC)NC(=O)OCC.CCC(C)CC(=O)[O-:10]>>[H:20][O:10]C(=O)CC(C)CC.CCOC(=O)NN(C(=O)OCC)P(C1=CC=CC=C1)(C2=CC=CC=C2)(C3=CC=CC=C3)[O:21]C(CCCCC(C)C)C(C(=O)[O-])OC4=CC=CC=C4 10=20;20,21=21
[H:20][C:21]1(C=C(C=C([C+:22]1NC(=O)CC)Br)Br)Br.[Br-:10]>>[H:20][Br:10].CCC(=O)N[C:22]1=[C:21](C=C(C=C1Br)Br)Br 10=20;20,21=21,22
CC1=CC=C(C=C1)S(=O)(=O)OC2=CC=C(C=C2)C3C[CH+:20]CC(O3)CCC4=CC=C(C=C4)OCC5=CC=CC=C5.CC(=O)O[Sn-](Br)(Br)(Br)[Br:10]>>CC1=CC=C(C=C1)S(=O)(=O)OC2=CC=C(C=C2)C3C[CH:20](CC(O3)CCC4=CC=C(C=C4)OCC5=CC=CC=C5)[Br+:10][Sn-](OC(=O)C)(Br)(Br)Br 10=20,
[B-:10](CCCC)(CCCC)([O+]=C(C)CC)[Cl:11].CCN(CC)CC>>[B:10](CCCC)(CCCC)[O+]=C(C)CC.[Cl-:11].CCN(CC)CC 10,11=11
[H:20][C:21]1(C=C[C+:24]([CH:23]=[CH:22]1)CC#C)[N+](=O)[O-].OS(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)O.C#CC[C:24]1=[CH:23][CH:22]=[C:21](C=C1)[N+](=O)[O-] 10=20;20,21=21,22;22,23=23,24
CC(=O)C1=CC(=C(C=C1)N2CCN(CC2)[C:20](C3=C(C=CC(=C3)[N+](=O)[O-])F)([O-:10])[Cl:21])F.CC[NH+](CC)CC.C1COCCO1>>CC(=O)C1=CC(=C(C=C1)N2CCN(CC2)[C:20](=[O:10])C3=C(C=CC(=C3)[N+](=O)[O-])F)F.[Cl-:21].CC[NH+](CC)CC.C1COCCO1 10=20;20,21=21
[H:20][O+:21]=C1CC2(CCCCC2=C)CC(O1)CC.[OH2:10]>>[H:20][OH2+:10].CCC1CC2(CCCCC2=C)CC(=[O:21])O1 10=20;20,21=21
[H:20][O:21]S(=O)(=O)C1=CC=C(C=C1)C.CC(CO)OC(C1=CC=C(C=C1)[N+](=O)[O-])[OH:10].C1=CC=CC=C1>>[H:20][OH+:10]C(C1=CC=C(C=C1)[N+](=O)[O-])OC(C)CO.CC1=CC=C(C=C1)S(=O)(=O)[O-:21].C1=CC=CC=C1 10=20;20,21=21
[H:20][CH:21]1CCC[C:22]1=[N+:23]2CCCC2.[OH2:10].CC1=CC=C(C=C1)S(=O)(=O)[O-]>>[H:20][OH2+:10].C1CC[N:23](C1)[C:22]2=[CH:21]CCC2.CC1=CC=C(C=C1)S(=O)(=O)[O-] 10=20;22,23=23;20,21=21,22
C(CC[O-:10])C[CH2:20][Br:21]>>C1CC[O:10][CH2:20]C1.[Br-:21] 10=20;20,21=21
[H:20][CH:21](C1=NC(=NC(=C1)OC)OC)[O:22][I+:23]2(C3=C(C=CC=C3)C(=O)O2)OC(=O)C.CC(=O)[O-:10].CC(=O)O>>[H:20][O:10]C(=O)C.CC(=O)O[I:23]1C2=C(C=CC=C2)C(=O)O1.COC1=CC(=NC(=N1)OC)[CH:21]=[O:22].CC(=O)O 10=20;22,23=23;20,21=21,22
[H:20][O+:21]1C(CC(C12CCOCC2)SC3=CC=CC=C3)C.[OH2:10].CC1=CC=C(C=C1)S(=O)(=O)[O-]>>[H:20][OH2+:10].CC1CC(C2([O:21]1)CCOCC2)SC3=CC=CC=C3.CC1=CC=C(C=C1)S(=O)(=O)[O-] 10=20;20,21=21
[H:20][Cl:21].C1C([CH:10]=[C:11](C1C2=CC=CC=C2)C3=CC=CC=C3)C4=CC=CC=C4>>[H:20][CH:10]1C(CC([C+:11]1C2=CC=CC=C2)C3=CC=CC=C3)C4=CC=CC=C4.[Cl-:21] 10,11=10,20;20,21=21
O[P:10](O)O.[I:20][I:21]>>O[P+:10](O)(O)[I:20].[I-:21] 10=20;20,21=21
[H:20][CH:21]1[C:22](=[O:23])OC(=N1)C.CC(=O)[O-:10]>>[H:20][O:10]C(=O)C.CC1=N[CH:21]=[C:22](O1)[O-:23] 10=20;22,23=23;20,21=21,22
C[Si](C)(C)C=[C:11]=[CH2:10].[CH2:20]=[O+:21][Sn]>>C[Si](C)(C)C=[C+:11][CH2:10][CH2:20][O:21][Sn] 10,11=10,20;20,21=21
CC[C:20](=[NH2+:21])OCC.CC[OH:10]>>CC[C:20]([NH2:21])([OH+:10]CC)OCC 10=20;20,21=21
[H:20][C:21](C)([C:22](=[O:23])C)C(C)(CC)O.[OH-:10]>>[H:20][OH:10].CCC(C)([C:21](=[C:22](C)[O-:23])C)O 10=20;22,23=23;20,21=21,22
[H:20][N+:21]1(CCCC1C(=O)[O-:10])C(C)(CCC2(C(=O)CCC2=O)C)O>>[H:20][O:10]C(=O)C1CCC[N:21]1C(C)(CCC2(C(=O)CCC2=O)C)O 10=20;20,21=21
